US07012075B2
To a cold (−78° C.) solution of 5-amino-3-methylisothiazole hydrochloride (21.2 g, 127 mmol), pyridine (68 mL, 841 mmol) and DMAP (4.62 g, 38 mmol) in CH2Cl2 (420 mL) was slowly added trichloroethylchloroformate (31 mL, 224 mmol) over a period of 15 min. The reaction mixture was stirred at −78° C. for 30 min and then warmed to room temperature for 1 h. The mixture was partitioned between EtOAc and water, the organic layer was dried over MgSO4 and concentrated in vacuo. The crude product was disolved in Et2O (800 mL), charcoal was added and the resulting black suspension was boiled for 15 min and allowed to stand at room temperature for 18 h. The charcoal was removed by filtration on a pad of celite and the filtrate was concentrated in vacuo. The crude product was crystallized from a hot mixture of Et2O/hexane (1:1, 600 mL) to yield 2,2,2-trichloroethyl 3-methylisothiazol-5-ylcarbamate as a light yellow solid.

reactant | 5-amino-3-methylisothiazole hydrochloride | 127 mmol, 21.2 g | Cl.NC1=CC(=NS1)C
reactant | pyridine | 841 mmol, 68 mL | N1=CC=CC=C1 | C5H5N
reactant | trichloroethylchloroformate | 224 mmol, 31 mL | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
catalyst | DMAP | 38 mmol, 4.62 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 420 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloroethyl 3-methylisothiazol-5-ylcarbamate | CC1=NSC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H7Cl3N2O2S
